US08207344B2
3: 1-Methanesulfonyl-4-[4-(piperidin-4-ylmethoxy)-phenyl]-1,2,3,6-tetrahydro-pyridine
Trifluoroacetic acid (2.98 g, 1.97 mL, 26.10 mmol) is added to a solution of 4-[4-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-phenoxymethyl]-piperidine-1-carboxylic acid tert-butyl ester (1.20 g, 2.61 mmol) in dichloromethane (13 mL). The mixture is stirred at 23° C. for 30 min. 2 M aq. sodium hydroxide is added. The resulting white precipitate is filtered and washed with water. The mother liquor is extracted with dichloromethane. The combined organic layers are dried over anhydrous sodium sulfate, filtered, and the solvent is removed to obtain a white solid which is combined with the initial precipitate and dried under high vacuum for 16 h. Diethyl ether is added and the solid is filtered and washed with ethyl acetate to obtain 0.810 g of an off-white solid. MS (m/z) 351 (M+1).

reactant | Trifluoroacetic acid | 26.10 mmol, 1.97 mL, 2.98 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-[4-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-phenoxymethyl]-piperidine-1-carboxylic acid tert-butyl ester | 2.61 mmol, 1.20 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=CC=C(C=C1)C=1CCN(CC1)S(=O)(=O)C | C23H34N2O5S
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
solvent | dichloromethane | 13 mL | ClCCl | CH2Cl2
product | 1-Methanesulfonyl-4-[4-(piperidin-4-ylmethoxy)-phenyl]-1,2,3,6-tetrahydro-pyridine | 0.810 g | CS(=O)(=O)N1CCC(=CC1)C1=CC=C(C=C1)OCC1CCNCC1 | C18H26N2O3S
